US07589206B2
1-[7-(3-Cyano-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-piperidin-1-yl-methanone hydrochloride salt
Prepared in a similar manner to Example 4(d) from 7-chloro-3-methyl-4-(1-piperidin-1-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester (90 mg) and using 3-cyanoaniline (56 mg) instead of 3-bromoaniline and heating for 15 rather than 30 minutes. Isolated by MDAP rather than trituration with diethyl ether and then suspended in ethyl acetate (10 ml) and treated with a solution of 1M hydrochloric acid in diethyl ether (10 drops). The mixture was evaporated and dried at 40° C. under vacuum to afford the title compound (25 mg).

reactant | 7-chloro-3-methyl-4-(1-piperidin-1-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester | 90 mg | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(=O)N2CCCCC2)Cl)C | C19H24ClN3O3
reactant | 3-cyanoaniline | 56 mg | C(#N)C=1C=C(N)C=CC1 | C7H6N2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | diethyl ether | 10 drops | C(C)OCC | C4H10O
product | 1-[7-(3-Cyano-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-piperidin-1-yl-methanone hydrochloride salt | 25 mg | Cl.C(#N)C=1C=C(C=CC1)NC=1N=CC(=C2C1NC=C2C)C(=O)N2CCCCC2 | InChI=1S/C21H21N5O.ClH/c1-14-12-23-19-18(14)17(21(27)26-8-3-2-4-9-26)13-24-20(19)25-16-7-5-6-15(10-16)11-22;/h5-7,10,12-13,23H,2-4,8-9H2,1H3,(H,24,25);1H
